US09145414B2
Toluene (150 mL), acetic acid tert-butyl ester (360 mL), and methanesulfonic acid (22 mL) were added to 5-bromo-7-methyl-1H-indazole (35.9 g), and the reaction solution was stirred at 80° C. for 28 hours. The reaction solution was cooled to room temperature, water (500 mL) was added, and extracted with toluene (500 mL) and 200 mL toluene. After separation, the organic layer was washed with water twice. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. Hexane was added to the resultant residue and the insolubles were separated by filtration. The solvent was evaporated from the filtrate under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 5-bromo-2-(tert-butyl)-7-methyl-2H-indazole as a light red oily substance.

reactant | Toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid tert-butyl ester | 360 mL | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | methanesulfonic acid | 22 mL | CS(=O)(=O)O | CH4O3S
reactant | 5-bromo-7-methyl-1H-indazole | 35.9 g | BrC=1C=C2C=NNC2=C(C1)C | C8H7BrN2
solvent | water | 500 mL | O | H2O
product | 5-bromo-2-(tert-butyl)-7-methyl-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)C)C(C)(C)C | C12H15BrN2
